### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): the small affine étale site

### PR DESCRIPTION
**Pull request by chrisflav**
We define the small affine étale site of a scheme `S`. The underlying category is the category of commutative rings `R` equipped with an étale structure morphism `Spec R ⟶ S`. This category is essentially small (in contrast to the full small étale site).

We show that it has the same category of sheaves as the small étale site of `S` and deduce from this that étale sheafification of presheaves with values in `Type u` exists and that the category of sheaves on the étale site with values in a Grothendieck abelian category is Grothendieck abelian.

In particular, this allows us to define the étale cohomology groups of a sheaf with values in `Ab.{u}` to be in `Type u`.

From Proetale.

Co-authored-by: Joël Riou <joel.riou@universite-paris-saclay.fr>

---

- [x] depends on: #35711
- [x] depends on: #35240
- [x] depends on: #34976
- [x] depends on: #33957 
- [x] depends on: #38820 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean [hunk 1]
```diff
@@ -0,0 +1,344 @@
...
+
+instance : S.smallEtaleTopology.WEqualsLocallyBijective A :=
+  .transport  _ _ _
+    (Functor.IsDenseSubsite.coverPreserving (AffineEtale.topology S) _
+      (AffineEtale.Spec S))
+
+variable (S A)
+
+/-- The category of sheafs on the small affine étale site is equivalent to the category of
+sheafs on the small étale site. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]:
```suggestion
/-- The category of sheaves on the small affine étale site is equivalent to the category of
sheaves on the small étale site. -/
```

File: Mathlib/AlgebraicGeometry/Morphisms/Etale.lean [hunk 2]
```diff
@@ -153,6 +153,11 @@ deriving Category, HasPullbacks
 
 variable (X : Scheme.{u})
 
+instance (Y : X.Etale) : Etale Y.hom := Y.prop
+
+instance : Category X.Etale :=
+  inferInstanceAs <| Category (MorphismProperty.Over @Etale ⊤ X)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Morphisms/Etale.lean]: `Etale` already has `deriving Category, HasPullback`, this should not be needed.

File: Mathlib/AlgebraicGeometry/Sites/Affine.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+module
+
+public import Mathlib.AlgebraicGeometry.Sites.Small
+public import Mathlib.CategoryTheory.Sites.DenseSubsite.OneHypercoverDense
+
+/-!
+# Small affine site induced by a morphism property
+
+Let `P` be a morphism property of schemes and `S` be a scheme. In this file we study the small
+affine `P`-site of `S`: Its objects are rings `R` with a structure morphism `Spec R ⟶ S` that
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/Affine.lean]:
```suggestion
affine `P`-site of `S`: its objects are rings `R` with a structure morphism `Spec R ⟶ S` that
```

Also, since there is no actual definition of that category in this file, can you also add a paragraph that details how this is spelled as using `MorphismProperty.CostructuredArrow`?
Finally, can you also add a paragraph mentioning uses in proving sheafifications live in the right universe?

File: Mathlib/AlgebraicGeometry/Sites/Affine.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+    let 𝒱 : Cover (precoverage P) X.left :=
+      𝒰.openCover.changeProp (fun _ ↦ IsZariskiLocalAtSource.of_isOpenImmersion _)
+    let _ (i : 𝒱.I₀) : (𝒱.X i).Over S := ⟨𝒰.f i ≫ X.hom⟩
+    let : Cover.Over S 𝒱 := { isOver_map _ := ⟨rfl⟩ }
+    refine ⟨𝒰.I₀, fun i ↦ affineOverMk (𝒰.f i ≫ X.hom)
+      (P.comp_mem _ _ (IsZariskiLocalAtSource.of_isOpenImmersion (𝒰.f i)) X.prop),
+      fun i ↦ CostructuredArrow.homMk (𝒰.f i) (by simp), ?_⟩
+    rw [Scheme.mem_smallGrothendieckTopology]
+    exact ⟨𝒱, inferInstance, fun i ↦ P.comp_mem _ _ (𝒱.map_prop i) X.prop,
+      fun _ _ ⟨i⟩ ↦ (Sieve.mem_ofArrows_iff ..).2 ⟨i, 𝟙 _, by cat_disch⟩⟩)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/Affine.lean]:
```suggestion
  Functor.IsOneHypercoverDense.of_hasPullbacks fun X ↦ by
    let 𝒰 := affineOpenCover X.left
    let 𝒱 : Cover (precoverage P) X.left :=
      𝒰.openCover.changeProp (fun _ ↦ IsZariskiLocalAtSource.of_isOpenImmersion _)
    let _ (i : 𝒱.I₀) : (𝒱.X i).Over S := ⟨𝒰.f i ≫ X.hom⟩
    let : Cover.Over S 𝒱 := { isOver_map _ := ⟨rfl⟩ }
    refine ⟨𝒰.I₀, fun i ↦ affineOverMk (𝒰.f i ≫ X.hom)
      (P.comp_mem _ _ (IsZariskiLocalAtSource.of_isOpenImmersion (𝒰.f i)) X.prop),
      fun i ↦ CostructuredArrow.homMk (𝒰.f i) (by simp), ?_⟩
    rw [Scheme.mem_smallGrothendieckTopology]
    exact ⟨𝒱, inferInstance, fun i ↦ P.comp_mem _ _ (𝒱.map_prop i) X.prop,
      fun _ _ ⟨i⟩ ↦ (Sieve.mem_ofArrows_iff ..).2 ⟨i, 𝟙 _, by cat_disch⟩⟩
```

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean [hunk 5]
```diff
@@ -0,0 +1,154 @@
...
+
+namespace AffineEtale
+
+/-- Construct an object of the small affine étale site. -/
+@[simps!]
+protected noncomputable def mk {R : CommRingCat.{u}} (f : Spec R ⟶ S) [Etale f] : AffineEtale S :=
+  MorphismProperty.CostructuredArrow.mk ⊤ f ‹_›
+
+noncomputable instance : Category S.AffineEtale :=
+  inferInstanceAs <| Category (MorphismProperty.CostructuredArrow _ _ _ _)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: Alternatively, you can wrap the whole file in a noncomputable section and then a `deriving` clause on `AffineEtale` works. (It’s also able to derive `HasPullbacks`)

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean [hunk 6]
```diff
@@ -0,0 +1,154 @@
...
+/-- The `Spec` functor from the small affine étale site of `S` to the small étale site of `S`. -/
+@[simps! obj_left obj_hom map_left]
+protected noncomputable def Spec (S : Scheme.{u}) : S.AffineEtale ⥤ S.Etale :=
+  MorphismProperty.CostructuredArrow.toOver _ _ _
+
+instance : (AffineEtale.Spec S).Faithful :=
+  inferInstanceAs <| (MorphismProperty.CostructuredArrow.toOver _ _ _).Faithful
+
+instance : (AffineEtale.Spec S).Full :=
+  inferInstanceAs <| (MorphismProperty.CostructuredArrow.toOver _ _ _).Full
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]:
```suggestion
protected noncomputable def Spec (S : Scheme.{u}) : S.AffineEtale ⥤ S.Etale :=
  MorphismProperty.CostructuredArrow.toOver _ _ _
deriving Functor.Full, Functor.Faithful
```
Just Works :tm:

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean [hunk 7]
```diff
@@ -0,0 +1,154 @@
...
+
+variable {A : Type u'} [Category.{u} A]
+  {FA : A → A → Type*} {CD : A → Type u}
+  [∀ X Y, FunLike (FA X Y) (CD X) (CD Y)] [ConcreteCategory.{u} A FA]
+  [PreservesLimits (CategoryTheory.forget A)] [HasColimits A] [HasLimits A]
+  [(CategoryTheory.forget A).ReflectsIsomorphisms]
+  [PreservesFilteredColimitsOfSize.{u, u} (CategoryTheory.forget A)]
+
+instance : HasSheafify (AffineEtale.topology S) A :=
+    hasSheafifyEssentiallySmallSite.{u} _ _
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]:
```suggestion
  hasSheafifyEssentiallySmallSite.{u} _ _
```

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean [hunk 8]
```diff
@@ -0,0 +1,154 @@
...
+
+/-- The category of sheaves on the small affine étale site is equivalent to the category of
+sheaves on the small étale site. -/
+@[simps! inverse]
+noncomputable def AffineEtale.sheafEquiv :
+    Sheaf (AffineEtale.topology S) A ≌ Sheaf S.smallEtaleTopology A :=
+  ((AffineEtale.Spec S).sheafPushforwardContinuous A
+      (topology S) S.smallEtaleTopology).asEquivalence.symm
+
+-- Making this an instance would create timeouts
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: Can you elaborate? I just made it an instance and things build fine, so I assume this is a problem for downstream work?

File: Mathlib/AlgebraicGeometry/LimitsOver.lean [hunk 9]
```diff
@@ -119,6 +119,24 @@ instance : HasFiniteCoproducts (P.Over ⊤ S) where
 noncomputable instance (J : Type*) [Small.{u} J] :
     CreatesColimitsOfShape (Discrete J) (MorphismProperty.Over.forget P ⊤ S) where
 
+variable {P : MorphismProperty Scheme.{u}} [IsZariskiLocalAtSource P]
+
+instance IsZariskiLocalAtSource.isClosedUnderColimitsOfShape_discrete {ι : Type*} [Small.{u} ι]
+    {C : Type*} [Category C] [HasColimitsOfShape (Discrete ι) C] (L : C ⥤ Scheme.{u})
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/LimitsOver.lean]:
```suggestion
    {C : Type*} [Category* C] [HasColimitsOfShape (Discrete ι) C] (L : C ⥤ Scheme.{u})
```

**Review by robin-carlier — COMMENTED** [review]
This is great!

File: Mathlib/AlgebraicGeometry/Morphisms/Etale.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/Etale.lean]: Indeed, it works. If I remember correctly, the `deriving` was broken at some point? (it would not throw an error, but the instance was still not there)

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: Ah, so it is indeed still broken:
```
protected noncomputable def Spec (S : Scheme.{u}) : S.AffineEtale ⥤ S.Etale :=
  MorphismProperty.CostructuredArrow.toOver _ _ _
deriving Functor.Full, Functor.Faithful

/--
error: failed to synthesize instance of type class
  (AffineEtale.Spec S).Faithful

Hint: Type class instance resolution failures can be inspected with the `set_option trace.Meta.synthInstance true` command.
-/
#guard_msgs in
instance : (AffineEtale.Spec S).Faithful :=
  inferInstance
```
Did you test whether the instances were available?

Comment (robin-carlier) [reply Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: Ah, my bad, you’re right! I assumed that `deriving` throwing no errors was enough, and did not try to synth it :facepalm: sorry for the bogus suggestion.
It still feels like something that should work, but it’s probably a non-trivial task to investigate.

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean (hunk 8 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: This is a question for @joelriou, who added this comment. Joël, do you remember what the reason was?

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: I think it is rather Lean's bad here :)

File: Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: I do not understand what is happening, but if we make `isGrothendieckAbelian_sheaf_affineEtaleTopology` an instance, Lean is not able to synthetize it automatically.
(For example, in the case `A := ModuleCat.{u} R`, the instance below should be found automatically, but I had to declare it manually because otherwise, it would timeout.)
There must be something wrong with the typeclass search here, but I do not know how to fix it.
If I do `set_option trace.Meta.synthInstance true` on the instance, I get suspicious lines involving the `ConcreteCategory` assumption, so that it may have something to do with outParams?
```lean
set_option trace.Meta.synthInstance true in
example [Abelian A] [IsGrothendieckAbelian.{u} A] :
    IsGrothendieckAbelian.{u} (Sheaf (AffineEtale.topology S) A) := by
  infer_instance
  sorry
-- extract of the output:
--  [apply] ❌️ apply inst✝⁷ to ConcreteCategory A fun X Y ↦ FA ?m.61 ?m.61 ▼
--    [tryResolve] ❌️ ConcreteCategory A fun X Y ↦ FA ?m.61 ?m.61 ≟ ConcreteCategory A FA
```

Comment (joelriou) [reply Mathlib/AlgebraicGeometry/Sites/AffineEtale.lean]: By adding two shortcut `Abelian` instances, it seems I was able to fix this.

File: Mathlib/AlgebraicGeometry/Sites/Affine.lean [hunk 10]
```diff
@@ -0,0 +1,83 @@
...
+    let 𝒱 : Cover (precoverage P) X.left :=
+      𝒰.openCover.changeProp (fun _ ↦ IsZariskiLocalAtSource.of_isOpenImmersion _)
+    let _ (i : 𝒱.I₀) : (𝒱.X i).Over S := ⟨𝒰.f i ≫ X.hom⟩
+    let : Cover.Over S 𝒱 := { isOver_map _ := ⟨rfl⟩ }
+    refine ⟨𝒰.I₀, fun i ↦ affineOverMk (𝒰.f i ≫ X.hom)
+      (P.comp_mem _ _ (IsZariskiLocalAtSource.of_isOpenImmersion (𝒰.f i)) X.prop),
+      fun i ↦ CostructuredArrow.homMk (𝒰.f i) (by simp), ?_⟩
+    rw [Scheme.mem_smallGrothendieckTopology]
+    exact ⟨𝒱, inferInstance, fun i ↦ P.comp_mem _ _ (𝒱.map_prop i) X.prop,
+      fun _ _ ⟨i⟩ ↦ (Sieve.mem_ofArrows_iff ..).2 ⟨i, 𝟙 _, by cat_disch⟩⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicGeometry/Sites/Affine.lean]:
```suggestion
      fun _ _ ⟨i⟩ ↦ (Sieve.mem_ofArrows_iff ..).mpr ⟨i, 𝟙 _, by cat_disch⟩⟩
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by chrisflav** [comment]
Thanks for the reviews!
bors r+
